US06642395B1
4) Preparation of (R,S)-2-(3-Chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethyl p-Toluenesulfonate
Into toluene (20 ml) were added (R)-2-(3-chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethanol obtained in 3) above (6.0 g) and triethylamine (4.7 g) and further, under ice-cooling and dropwise, p-toluenesulfonyl chloride (4.9 g), and the resulting mixture was stirred at the same temperature for 1 hour. The reaction mixture was washed with water and the organic layer was further washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The desiccant was filtered off and then the solvent was distilled off to obtain a colorless oily compound mentioned above (9.1 g, 94.8%).

reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | (R)-2-(3-chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethanol | ClC=1C=C(C=CC1)[C@H](CO)OC1OCCCC1 | C13H17ClO3
reactant | p-toluenesulfonyl chloride | 4.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | triethylamine | 4.7 g | C(C)N(CC)CC | C6H15N
product | (R,S)-2-(3-Chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethyl p-Toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H](O[C@@H]1OCCCC1)C1=CC(=CC=C1)Cl)C | C20H23ClO5S
